US07795272B2
A mixture of 70 mg (2.75 mmol) of aluminum foil and 0.8 mg (0.003 mmol) of mercuric chloride in 3 mL of anhydrous THF was vigorously stirred. After 20 minutes, 0.31 mL (2.75 mmol) of a 80% solution of propargyl bromide in toluene was added and the reaction was warmed at 40° C. for one hour. The dark grey solution was then added to a chilled (0° C.) solution of 300 mg (0.88 mmol) of 1,1,1-trifluoro-3-(6-methanesulfonyl-4-methylchroman-4-yl)propan-2-one in 10 mL of dry tetrahydrofuran. The reaction was warmed to room temperature overnight, concentrated in vacuo, quenched with ice and extracted with diethyl ether. The combined organic fractions were dried over magnesium sulfate, filtered and concentrated in vacuo to afford 330 mg of crude 1,1,1-trifluoro-2-(6-methanesulfonyl-4-methylchroman-4-ylmethyl)pent-4-yn-2-ol as an oil.

reactant | aluminum | 2.75 mmol, 70 mg | [Al] | Al
reactant | propargyl bromide | C(C#C)Br | C3H3Br
reactant | 1,1,1-trifluoro-3-(6-methanesulfonyl-4-methylchroman-4-yl)propan-2-one | 0.88 mmol, 300 mg | FC(C(CC1(CCOC2=CC=C(C=C12)S(=O)(=O)C)C)=O)(F)F | C14H15F3O4S
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 1,1,1-trifluoro-2-(6-methanesulfonyl-4-methylchroman-4-ylmethyl)pent-4-yn-2-ol | 330 mg | FC(C(CC#C)(O)CC1(CCOC2=CC=C(C=C12)S(=O)(=O)C)C)(F)F | C17H19F3O4S
